US07091199B1
Preparation of [3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-(2-trifluoromethylbenzyl)-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 2-(trifluoromethyl)benzylamine, and acetonitrile essentially as described above in example 56. Purity by LC/MS (APCI)=98%, [M+H]+=433.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trifluoromethyl)benzylamine | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
solvent | acetonitrile | C(C)#N | C2H3N
product | [3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-(2-trifluoromethylbenzyl)-amine | O1N=C(C2=C1C=CS2)C=2C=C(OCCCNCC1=C(C=CC=C1)C(F)(F)F)C=CC2 | C22H19F3N2O2S
